US08486950B2
2,6-dichloro-N-(2-(3-isopropylureido)pyridin-4-yl)benzamide
A mixture of 2-isocyanatopropane (0.050 g, 0.59 mmol), N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide (0.047 g, 0.17 mmol) and diisopropylethylamine (50 mg, 0.39 mmol) in 1,2-dichloroethane (3.0 mL) was stirred at 60° C. for 3 hours. The mixture was concentrated under reduced pressure, and the residue was purified via prep-HPLC (Gilson GX 281, Shim-pack PRC-ODS 250 mm×20 mm×2, gradient: CH3CN/10 mm/L NH4HCO3, 17 min) to give the desired product as a white solid (0.025 g, yield: 41%). 1H NMR (DMSO-d6, 500 MHz): δ 8.02 (d, J=5.5 Hz, 1H). 7.51 (s, 1H), 7.40-7.34 (m, 3H), 7.05 (m, 1H), 3.87 (m, 1H), 1.14 (t, J=6.5 Hz, 6H). LCMS (ESI) m/z: 367.1 [M+H+].

reactant | 2-isocyanatopropane | 0.59 mmol, 0.050 g | N(=C=O)C(C)C | C4H7NO
reactant | N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide | 0.17 mmol, 0.047 g | NC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H9Cl2N3O
reactant | diisopropylethylamine | 0.39 mmol, 50 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 3.0 mL | ClCCCl | C2H4Cl2
product | 2,6-dichloro-N-(2-(3-isopropylureido)pyridin-4-yl)benzamide | 0.025 g, yield: 41% | ClC1=C(C(=O)NC2=CC(=NC=C2)NC(=O)NC(C)C)C(=CC=C1)Cl | C16H16Cl2N4O2
